US07553845B2
Benzyl [7-(acetylamino)-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate
A suspension of 1.5 g (3.26 mmol) of benzyl [7-amino-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate in 10 mL of acetic anhydride is heated at 100° C. for 15 minutes.

reactant | benzyl [7-amino-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate | 3.26 mmol, 1.5 g | NC=1C=CN2C(=C(C(=C2C1)C(=O)OCC1=CC=CC=C1)C)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C25H21N3O6
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Benzyl [7-(acetylamino)-3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carboxylate | C(C)(=O)NC=1C=CN2C(=C(C(=C2C1)C(=O)OCC1=CC=CC=C1)C)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C27H23N3O7
